2170-07-26 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Overnight, the patient was tachypenic and serial VBGs showed persistent
   hypercarbia.  Tried patient on mask ventilation, and at first he did
   ok.  Then he started stacking breaths and took off the mask.  02
   saturation remained >95%.
   Mental Status unchanged overnight.  Patient is tired this AM and asking
   to be intubated.
 PICC LINE - START [**2170-7-25**] 02:25 PM
 EKG - At [**2170-7-25**] 10:00 PM
   unchanged.  pt has been in ST t/o shift
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-7-25**] 08:45 PM
   Tobramycin - [**2170-7-25**] 10:00 PM
   Meropenem - [**2170-7-26**] 05:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-25**] 08:00 PM
   Lorazepam (Ativan) - [**2170-7-25**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-26**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 131 (112 - 138) bpm
   BP: 119/69(80) {112/64(74) - 128/99(105)} mmHg
   RR: 24 (24 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    547 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    310 mL
   Urine:
                                                                    725 mL
                                                                    260 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                   -178 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 16 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 31%
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.33/77.[**Numeric Identifier 96**]/32/39/10
   Ve: 6.7 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Anxious, shallow breathing
   Eyes / Conjunctiva: R pupil >L, both reactive
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   throughout, Diminished: bases, L>R)
   Abdominal: hard, non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, oriented x 3
   Labs / Radiology
   763 K/uL
   6.2 g/dL
   119 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.5 mEq/L
   20 mg/dL
   92 mEq/L
   137 mEq/L
   20.0 %
   12.1 K/uL
        [image002.jpg]
                             [**2170-7-25**]  05:50 PM
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
   WBC
   12.1
   Hct
   20.0
   Plt
   763
   Cr
   0.4
   TropT
   0.05
   0.06
   TCO2
   43
   Glucose
   119
   Other labs: PT / PTT / INR:13.8/33.3/1.2, CK / CKMB /
   Troponin-T:56/3/0.06, Lactic Acid:1.2 mmol/L, Ca++:9.5 mg/dL, Mg++:1.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   ASSESSMENT & PLAN: 34 y/o M with PMHx of large B-cell lymphoma s/p
   allogenic stem cell transplant in 05 c/b severe GVHD who has been
   inpatient for last 2mths here with hypercarbic respiratory distress and
   ALS [**12-30**] aspiration PNA.
   .
   # Respiratory Distress: Pt with h/o multiple PNAs & poor resp mechanics
   [**12-30**] to severe skin GVHD causing encasing of the chest wall as well as
   chronically collapsed lower lung. Pt has had nausea, vomiting for the
   last 3 days and was advanced po diet in setting of some MS changes and
   increasing somnolence. Now with low grade fevers & CXR findings c/w new
   RLL pneumonia, productive of bile-laden sputum.  Clinical picture very
   suggestive of new aspiration PNA. VBGs showing hypercarbic resp failure
   and pt with increased resp effort.  Given the semi-normal pH despite
   severe hypercarbia, likely due to restrictive disease from his GVHD and
   chronically collapsed LLL.  Some acute hypercarbia likely [**12-30**]
   aspiration PNA.
   - Continue Vanc, Meropenem, Tobramycin, Caspofungin
   - f/u ID recs
   - try non-invasive mask ventilation prn, try to get ABG on BIPAP if
   patient tolerates
   - f/u blood, urine Cx, sputum culture, am CXR
   - f/u CMV VL and Galactomannin
   - Atrovent nebs 3hrs (holding Albuterol for tachycardia)
   - strict aspiration precautions
   - hold off on thoracentesis for now given the risks outweigh the
   benefits.
   - deep suction if tolerated
   - strict NPO & hold all sedating meds
   .
   # Mental Status changes: Patient somnolent at baseline, perhaps
   worsened by hypercarbia. CT head last night WNL, so less likely
   intracranial process despite pupil asymmetry.  Pupil asymmetry may also
   be due to nebs leaking over one side of face preferentially or to GVHD
   affecting vision. Difficult to assess neuro exam, but unchanged
   overnight.
   - serial neuro exams
   - requiring pain meds, but will limit as much as possible because we do
   not want to dampen respiratory drive so pt. can blow off some c02.
   .
   # Abd pain: Pt with acute on chronic abd pain and new N/V over last 3
   days. Portable abd confirms placement of G-J tube but raises concern
   for early bowel obsruction, patient has history of ileus, and this is
   more likely.  Difficult to obtain abd exam given abd wall skin. C/o
   abdominal pain this AM, had a bowel movement O/N
   - strict NPO, hold TFs for now
   - restart TPN per nutrition recs
   - if acutely concerned, will eval with KUB.
   - restart bowel regimen
   #. GVHD: Continue regimen per BMT
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u Tacro level this AM (has been 6.9)
   - f/u BMT recs
   - Due for IVIG at the end of [**Month (only) 705**]
   .
   # Tachycardia: Baseline HR in 110s per primary team, rate in 130s
   currently most likely due to respiratory distress and acute infection
   and possibly pain. Pt denying any CP but ongoing SOB, EKGs unchanged
   from prior tracings.  Pt has been worked up for PE with negative CTA x
   2 on [**7-16**] & [**7-17**].
   - CE enzymes negative, EKG unchanged
   - monitor on telemetry
   .
   # PE: Pt with a history of PE in [**4-5**] currently on systemic
   anticoagulation, CTA negative x 2.
   - continue Lovenox 60mg sc BID
   #MDD:
   - holding long acting Benzos given AMS
   - Continue remeron and ritalin per psych recs
   - will give short acting Benzo (Ativan) prn
   .
   # FEN: strictly NPO for now
   - nutrition consult for TPN
   - monitor lytes, replete prn
   .
   # Access: PICC -one lumen for TPN, so limited access for emergent
   situation.  PIV very difficult to get in this patient.
   -if necessary, IR for PIV or PICC placement
   .
   # PPx: PPI, Lovenox 40mg sc BID, restart bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU.  Will need to talk to BMT about the short and long term
   goals of care and prognosis.  Likely close to baseline respiratory
   status.
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-26 09:00:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2170-7-25**] 02:25 PM
 EKG - At [**2170-7-25**] 10:00 PM
   unchanged.  pt has been in ST t/o shift
   Remains dyspneic, requiring non-invasive ventilation overnight.
   Poor tolerance of non-invasive ventilation last PM.
   VBGs demonstrate persistent hypercapnea, preserved pH.
   Fatigued this AM.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2170-7-25**] 08:45 PM
   Tobramycin - [**2170-7-25**] 10:00 PM
   Meropenem - [**2170-7-26**] 05:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-25**] 08:00 PM
   Lorazepam (Ativan) - [**2170-7-25**] 09:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Emesis, No(t)
   Diarrhea, No(t) Constipation, PEG/J
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-7-26**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 137 (112 - 138) bpm
   BP: 120/76(84) {112/64(74) - 128/99(105)} mmHg
   RR: 27 (23 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                    547 mL
                                                                    388 mL
   PO:
             TF:
   IVF:
                                                                    447 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    310 mL
   Urine:
                                                                    725 mL
                                                                    260 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                   -178 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 300) mL
   PS : 16 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 31%
   PIP: 23 cmH2O
   SpO2: 93%
   ABG: 7.33/77.[**Numeric Identifier 96**]/32/39/10
   Ve: 6.7 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   chronically ill-appearing
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema, asymetric pupils
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: No(t) Clear : , Crackles : diffuse, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   prolonged expiratory phase
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mild, diffuse, No(t) Obese, PEG/J
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: diffuse patchy hyperpigmented, No(t) Jaundice, very
   firm to palpation, diffusely
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, year, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.2 g/dL
   763 K/uL
   119 mg/dL
   0.4 mg/dL
   39 mEq/L
   4.5 mEq/L
   20 mg/dL
   92 mEq/L
   137 mEq/L
   27.1 %
   12.1 K/uL
        [image002.jpg]
                             [**2170-7-25**]  05:50 PM
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
                             [**2170-7-26**]  07:45 AM
   WBC
   12.1
   Hct
   20.0
   27.1
   Plt
   763
   Cr
   0.4
   TropT
   0.05
   0.06
   TCO2
   43
   Glucose
   119
   Other labs: PT / PTT / INR:13.8/33.3/1.2, CK / CKMB /
   Troponin-T:56/3/0.06, Lactic Acid:1.2 mmol/L, Ca++:9.5 mg/dL, Mg++:1.1
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory distress, pneumonia, ventilatory failure.
   RESPIRATORY DISTRESS -- predominately ventilatory failure, suspect
   multifactorial.  Pneumonia, LLL atalectasis (chronic,
   persistent),restrictive disease (chest wall thickening and limited
   excurtion).  Continue antimicrobials.  Poor tolerance of non-invasive
   ventilation.  Offer non-invasive ventilation, consider intubation if
   decompensates (progressive acidemia or hypercapnea), but at high risk
   for ventilator dependence.  Need to better define goals of care.
   ALTERED MENTAL STATUS -- somnulance attributed to sedatives, also
   contribution from hypercapnea (ventilatory failure).  Remains
   appropriate.  Monitor closely.
   PLEURAL EFFUSION
 plan attempt at therapeutic left thoracentesis,
   hopefully will contribute to improved ventilation (perhaps re-expand
   LLL).
   LLL ATALECTASIS
 persistent and progressive since [**5-6**].  Suspect
   likelihood of reexpansion low, but may be of benefit if achieved.
   Maintaining reexpansion will be challenging due to restrictive
   physiology.
   PANIC ATTACKS -- continue pharmacological mangement.
   GVHD -- extensive disease of skin and GI tract.  Continue medications.
   TACHYCARDIA -- somewhat higher than baseline, related to pain,
   hypoxemia.
   PNEUMONIA -- RLL, likely due to aspiration.
   FLUIDS -- hypovolemia;  replete.
   NUTRITIONAL SUPPORT -- Resume TF.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-7-26**] 08:00 AM 117 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Critical Care Attending Addendum:
   Clinical decline this afternoon; increased somnulance and blood gas
   demonstrates increased pCO2 and decreased pH;  experiences periods of
   apnea and hemodynamic instability (bradycardia, hypotension).
   Discussed with patient
s wife.  Intubated by anesthesia without
   difficulty.  Mechanical ventilation, monitor VBG (hope to avoid a-line
   if possible due to GVHD), aim for pH 7.30-7.35, sedation, analgesia.
   Plan left thoracentesis.
   Total time providing critical care= 65 mins
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2170-7-26**] 16:35 ------

2170-07-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2170-7-26**] 03:30 PM
   -patient intubated yesterday afternoon, secondary to hypercarbia (pCO2
   106)
   -A-line attempted, but unable to place
   -SBPs dropped to 80s after sedation. Lasix and Lopressor held.
   Responsive to IVF.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2170-7-25**] 10:00 PM
   Vancomycin - [**2170-7-26**] 08:00 PM
   Caspofungin - [**2170-7-26**] 08:00 PM
   Acyclovir - [**2170-7-26**] 10:09 PM
   Meropenem - [**2170-7-27**] 06:19 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-7-26**] 02:30 PM
   Enoxaparin (Lovenox) - [**2170-7-26**] 08:00 PM
   Midazolam (Versed) - [**2170-7-27**] 02:25 AM
   Fentanyl - [**2170-7-27**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 119 (107 - 137) bpm
   BP: 111/61(73) {89/52(63) - 132/84(92)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,710 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  2,413 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    325 mL
   Urine:
                                                                  1,615 mL
                                                                    325 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,045 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 369) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.32/85.[**Numeric Identifier 128**]/77/38/13
   Ve: 9.1 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   638 K/uL
   7.2 g/dL
   90 mg/dL
   0.3 mg/dL
   38 mEq/L
   3.4 mEq/L
   20 mg/dL
   95 mEq/L
   140 mEq/L
   23.1 %
   9.0 K/uL
        [image002.jpg] KUB: GJ tube in expected position.  Paucity of gas
   in small bowel making small-bowel obstruction unlikely. If there is a
   high clinical suspicion for obstruction, CT is recommended for further
   evaluation.
   Sputum GS [**7-26**] GPCs in pairs.  C diff negative.  CMV VL pending.   BCx
   x2 pending.  Ucx Coag
 staph 10-[**Numeric Identifier 4841**]
   Most recent ABG: 7.44/62/32/43 on FiO2 40%
                             [**2170-7-25**]  05:50 PM
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
                             [**2170-7-26**]  07:45 AM
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
   WBC
   12.1
   9.0
   Hct
   20.0
   27.1
   23.1
   Plt
   763
   638
   Cr
   0.4
   0.3
   TropT
   0.05
   0.06
   TCO2
   43
   46
   Glucose
   119
   90
   Other labs: PT / PTT / INR:13.9/33.1/1.2, CK / CKMB /
   Troponin-T:56/3/0.06, ALT / AST:42/49, Alk Phos / T Bili:68/0.3, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:645 IU/L, Ca++:8.7 mg/dL,
   Mg++:0.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress: Pt with h/o multiple PNAs & poor resp mechanics
   [**12-30**] to severe skin GVHD causing encasing of the chest wall as well as
   chronically collapsed lower lung. Now with low grade fevers & CXR
   findings c/w new RLL pneumonia, productive of bile-laden sputum.
   Clinical picture very suggestive of new aspiration PNA. VBGs showing
   hypercarbic resp failure and pt with increased resp effort.  Given the
   semi-normal pH despite severe hypercarbia, likely due to restrictive
   disease from his GVHD and chronically collapsed LLL.  Some acute
   hypercarbia likely [**12-30**] aspiration PNA. Patient intubated and sedated.
   - Continue Vanc, Meropenem, Tobramycin, Caspofungin
   -consider thoracentesis today as this may increase respiratory
   comfort.  Patient is sedated, and will unlikely be able sit up for
   procedure. IP is aware of him. Lovenox held today in anticipation of
   procedure.
   - f/u ID recs
   - f/u blood, urine Cx, sputum culture, am CXR
   - f/u CMV VL and Galactomannin
   - Atrovent nebs 3hrs (holding Albuterol for tachycardia)
   - strict aspiration precautions
   - deep suction if tolerated
   - strict NPO & hold all sedating meds
    .
   # Mental Status changes: Patient somnolent at baseline, perhaps
   worsened by hypercarbia. CT head WNL, so less likely intracranial
   process despite pupil asymmetry.  Pupil asymmetry may also be due to
   nebs leaking over one side of face preferentially or to GVHD affecting
   vision. Difficult to assess neuro exam, but unchanged overnight.
   Patient is sedated, but arousable currently.
   -continue fentanyl and versed for patient comfort
   .
   # Abd pain: Pt with acute on chronic abd pain and new N/V over last 3
   days. Portable abd confirms placement of G-J tube but raises concern
   for early bowel obsruction, patient has history of ileus, and this is
   more likely.  Difficult to obtain abd exam given abd wall skin. +BM
   yesterday
   - strict NPO, hold TFs for now
   - restart TPN per nutrition recs
   - if acutely concerned, will eval with KUB.
   - restart bowel regimen
   #. GVHD: Continue regimen per BMT. Last IVIG on [**6-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u Tacro level this AM (has been 6.9)
   - f/u BMT recs
   - Due for IVIG at the end of [**Month (only) 705**]
   .
   # Tachycardia: Baseline HR in 110s per primary team, rate in 130s
   currently most likely due to respiratory distress and acute infection
   and possibly pain. Pt denying any CP but ongoing SOB, EKGs unchanged
   from prior tracings.  Pt has been worked up for PE with negative CTA x
   2 on [**7-16**] & [**7-17**]. Already anticoagulated.
   - CE enzymes negative, EKG unchanged
   - monitor on telemetry
   .
   # PE: Pt with a history of PE in [**4-5**] currently on systemic
   anticoagulation, CTA negative x 2.
   - continue Lovenox 60mg sc BID
   #MDD: Psychiatry is following.
   - holding long acting Benzos given AMS
   - Continue remeron and ritalin per psych recs
   - will give short acting Benzo (Ativan) prn
   .
   # FEN: strictly NPO for now
   - nutrition consult for TPN
   - monitor lytes, replete prn
   .
   # Access: PICC -one lumen for TPN, so limited access for emergent
   situation.  PIV very difficult to get in this patient.
   -IR for central line placement needed
   .
   # PPx: PPI, Lovenox 40mg sc BID, restart bowel regimen
   .
   # Code: FULL -discuss goals of care with family today, and clarify code
   status.
   .
   # Dispo: ICU.  Will need to talk to BMT about the short and long term
   goals of care and prognosis.  Likely close to baseline respiratory
   status.
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Code status: Full code
   Disposition:

2170-07-27 09:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2170-7-26**] 03:30 PM
   Intubated yesterday afternoon for progressive ventilatory failure.
   Transient hypotension following intubation --> responded to iv fluid
   boluses.
   Appears comfortable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2170-7-25**] 10:00 PM
   Caspofungin - [**2170-7-26**] 08:00 PM
   Vancomycin - [**2170-7-26**] 08:00 PM
   Acyclovir - [**2170-7-26**] 10:09 PM
   Meropenem - [**2170-7-27**] 06:19 AM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-7-26**] 02:30 PM
   Enoxaparin (Lovenox) - [**2170-7-26**] 08:00 PM
   Midazolam (Versed) - [**2170-7-27**] 02:25 AM
   Fentanyl - [**2170-7-27**] 03:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss, Low grade fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash, severe GVHD
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-7-27**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.7
C (99.8
   HR: 108 (107 - 135) bpm
   BP: 104/62(72) {89/52(63) - 132/84(92)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
           Total In:
                                                                  3,710 mL
                                                                    789 mL
   PO:
           TF:
   IVF:
                                                                  2,413 mL
                                                                    475 mL
   Blood products:
   173 mL
   Total out:
                                                                  1,665 mL
                                                                    385 mL
   Urine:
                                                                  1,615 mL
                                                                    385 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,045 mL
                                                                    404 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 369) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 38 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.32/85/77/38/13
   Ve: 9.1 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   chronically ill-appearing
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, right pupil dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: left,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese, firm abdominal wall
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, firm cutaneous exam;
   hyperpigmented areas, scattered
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   7.2 g/dL
   638 K/uL
   90 mg/dL
   0.3 mg/dL
   38 mEq/L
   3.4 mEq/L
   20 mg/dL
   95 mEq/L
   140 mEq/L
   23.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2170-7-25**]  05:50 PM
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
                             [**2170-7-26**]  07:45 AM
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
   WBC
   12.1
   9.0
   Hct
   20.0
   27.1
   23.1
   Plt
   763
   638
   Cr
   0.4
   0.3
   TropT
   0.05
   0.06
   TCO2
   43
   46
   Glucose
   119
   90
   Other labs: PT / PTT / INR:13.9/33.1/1.2, CK / CKMB /
   Troponin-T:56/3/0.06, ALT / AST:42/49, Alk Phos / T Bili:68/0.3, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:645 IU/L, Ca++:8.7 mg/dL,
   Mg++:0.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Ventilatory failure, multifactorial.
   RESPIRATORY FAILURE -- multifactorial.  Pneumonia, pleural effusion,
   LLL atalectasis, restrictive physiology (although pressures not
   severely high).  Contribution of benzodiazepines (sedation).  Continue
   mechanical ventilation, monitor ABG.  Aim for pH 7.30-7.35.  Hope to
   assess preparedness for extubation once thoracentesis performed, LLL
   atalectasis, left pleural effusion improved.  Hope to identify
   reversible process.  Discussion with wife, no desire for chronic
   tracheotomy tube placement and chronic ventilation.  Bronchoscopy to
   assess airway patency and sample resp. secretions.
   HYPOTENSION -- transient, likely related to intubation/pharmacological
   agents.
   Left PLEURAL EFFUSION -- plan therapeutic thoracentesis (IP service to
   perform).
   LLL ATALECTASIS -- consider bronchoscopy to assess airway patency.
   ANXIETY -- continue benzodiazepine infusion.  Continue other meds as
   per Psychiatry.
   FLUIDS -- euvolemic.  Monitor I/O.  Maintain balance.  PICC.
   NUTRITIONAL SUPPORT -- TF.  Hold TPN --> will need .
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2170-07-28 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2170-7-27**] 11:31 AM
 THORACENTESIS - At [**2170-7-27**] 12:35 PM
 BLOOD CULTURED - At [**2170-7-27**] 03:21 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-7-26**] 10:09 PM
   Vancomycin - [**2170-7-27**] 08:17 PM
   Caspofungin - [**2170-7-27**] 09:20 PM
   Tobramycin - [**2170-7-27**] 10:05 PM
   Meropenem - [**2170-7-28**] 05:37 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-27**] 08:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-28**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 127 (101 - 127) bpm
   BP: 115/73(81) {80/48(56) - 125/77(99)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,550 mL
                                                                    427 mL
   PO:
             TF:
                                                                    100 mL
                                                                    101 mL
   IVF:
                                                                  1,985 mL
                                                                    326 mL
   Blood products:
                                                                    875 mL
   Total out:
                                                                  2,625 mL
                                                                    600 mL
   Urine:
                                                                  1,625 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                    925 mL
                                                                   -173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 6.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   546 K/uL
   9.2 g/dL
   116 mg/dL
   0.3 mg/dL
   38 mEq/L
   3.9 mEq/L
   15 mg/dL
   96 mEq/L
   138 mEq/L
   28.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2170-7-25**]  05:50 PM
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
                             [**2170-7-26**]  07:45 AM
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
                             [**2170-7-27**]  02:22 PM
                             [**2170-7-28**]  04:05 AM
   WBC
   12.1
   9.0
   7.3
   7.3
   Hct
   20.0
   27.1
   23.1
   29.6
   28.6
   Plt
   [**Telephone/Fax (3) 4886**]46
   Cr
   0.4
   0.3
   0.3
   0.3
   TropT
   0.05
   0.06
   TCO2
   43
   46
   Glucose
   119
   90
   161
   116
   Other labs: PT / PTT / INR:13.6/33.8/1.2, CK / CKMB /
   Troponin-T:56/3/0.06, ALT / AST:39/44, Alk Phos / T Bili:64/0.2, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:673 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  secondary to 1. restrictive lung disease [**12-30**]
   GVHD skin thickening  2. chronic LLL atelectasis   3.  Pleural
   effusions  4.  RLL aspiration pneumonia vs. pneumonitis.  Patient
   intubated and sedated.
   - Continue Vanc (day 1 [**7-25**]), Meropenem (day 1 [**7-25**]), Tobramycin (day 1
   [**7-25**]), empiric Caspofungin (day 1 [**7-24**])
   -Thoracentesis today as this may increase respiratory comfort.  Patient
   is sedated, and will unlikely be able sit up for procedure. IP is aware
   of him. Lovenox held today in anticipation of procedure.  Send pleural
   fluid for bacterial, fungal, AFB stain and culture, PCP, [**Name10 (NameIs) 4843**],
   Viral culture
   -bronchoscopy today in attempt to open LLL atelectasis
   - Atrovent nebs 3hrs (holding Albuterol for tachycardia
   .
   # Mental Status changes: Patient somnolent at baseline, perhaps
   worsened by hypercarbia. CT head WNL, so less likely intracranial
   process despite pupil asymmetry.  Pupil asymmetry may also be due to
   nebs leaking over one side of face preferentially or to GVHD affecting
   vision. Difficult to assess neuro exam, but unchanged overnight.
   Patient is sedated, but arousable currently.
   -continue fentanyl and versed for patient comfort
   -daily wakeups
   -consider MRI to investigate cause of new anisocoria  -touch base with
   heme/onc regarding further imaging
   .
   # Abd pain: KUB shows no evidence of SBO.  Difficult to obtain abd exam
   given abd wall skin. +BMx3 yesterday. Resolved.
   - restart TFs per nutrition recs
   - continue bowel regimen
   #. GVHD: Continue regimen per BMT. Last IVIG on [**6-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u Tacro level yesterday AM (has been 6.9)
   - f/u BMT recs
   - Due for IVIG [**7-28**]
   .
   # Tachycardia: Baseline HR in 110s per primary team, rate in 130s
   currently most likely due to respiratory distress and acute infection
   and possibly pain. Pt denying any CP but ongoing SOB, EKGs unchanged
   from prior tracings.  Pt has been worked up for PE with negative CTA x
   2 on [**7-16**] & [**7-17**]. Already anticoagulated
   - CE enzymes negative, EKG unchanged
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
held this AM in anticipation of
   thoracentesis
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given AMS
   - Continue remeron and ritalin per psych recs
   - will give short acting Benzo (Ativan) prn
   .
   # FEN: restart TFs
   - monitor lytes, replete prn
   .
   # Access: PICC -one lumen for TPN, so limited access for emergent
   situation.  PIV very difficult to get in this patient.
   -IR for central line placement needed
not essential today, but will
   need to address this within the next few days.
   .
   # PPx: PPI, Lovenox 40mg sc BID, restart bowel regimen
   .
   # Code: FULL -discuss goals of care with family today, and clarify code
   status.  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] longterm
   intubation.
   .
   # Dispo: ICU
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-29 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2170-7-28**] 03:40 PM
   -tried to wean yesterday.  PS reduced to [**11-2**], but CO2 went up to 79.
   Increased to 15/5.
   -became acutely tachycardic last night, given adenosine, looked like
   aflutter.  Given IV lopressor (5mg once) which controlled rate.
   CE
s x2 negative
   4 pm ABG  7.36/76/357/45
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2170-7-27**] 10:05 PM
   Vancomycin - [**2170-7-28**] 07:10 PM
   Caspofungin - [**2170-7-28**] 08:34 PM
   Acyclovir - [**2170-7-28**] 10:01 PM
   Meropenem - [**2170-7-29**] 04:59 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-28**] 10:15 AM
   Adenosine - [**2170-7-28**] 03:46 PM
   Metoprolol - [**2170-7-28**] 03:48 PM
   Enoxaparin (Lovenox) - [**2170-7-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-29**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 117 (99 - 210) bpm
   BP: 116/74(82) {84/42(55) - 118/82(105)} mmHg
   RR: 16 (9 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,470 mL
                                                                    472 mL
   PO:
             TF:
                                                                    511 mL
                                                                    185 mL
   IVF:
                                                                  1,689 mL
                                                                    287 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    840 mL
   Urine:
                                                                  2,000 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 354 (314 - 354) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/76.[**Numeric Identifier 128**]/357/41/13
   Ve: 7.1 L/min
   PaO2 / FiO2: 893
   Physical Examination
   Gen: NAD. Intubated, sedated.
   Lungs: Inspiratory and expiratory rhonchi bilaterally, on anterior
   exam.
   CV: RRR. No murmurs.
   Abd: Tight [**12-30**] to skin. No masses. No rebound or guarding.
   Extremities: Warm, well perfused. Skin thickened. No edema.
   Neuro: Patient arouses to voice, and is able to point to pain.
   Labs / Radiology
   498 K/uL
   9.1 g/dL
   139 mg/dL
   0.4 mg/dL
   41 mEq/L
   4.1 mEq/L
   12 mg/dL
   93 mEq/L
   138 mEq/L
   27.8 %
   7.4 K/uL
        [image002.jpg] Pleural fluid pending. [**7-27**] bronchial washings 4+
   PMNs, 3+ GPCs pairs and clusters.  Resp cx. S. aureus.
                             [**2170-7-25**]  10:25 PM
                             [**2170-7-26**]  04:21 AM
                             [**2170-7-26**]  07:45 AM
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
                             [**2170-7-27**]  02:22 PM
                             [**2170-7-28**]  04:05 AM
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
   WBC
   12.1
   9.0
   7.3
   7.3
   7.4
   Hct
   20.0
   27.1
   23.1
   29.6
   28.6
   27.8
   Plt
   [**Telephone/Fax (3) 4886**]46
   498
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   0.4
   TropT
   0.05
   0.06
   0.03
   TCO2
   46
   45
   Glucose
   119
   90
   161
   116
   187
   139
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/4/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  secondary to 1. restrictive lung disease [**12-30**]
   GVHD skin thickening  2. chronic LLL atelectasis   3.  Pleural
   effusions  4.  RLL aspiration pneumonia vs. pneumonitis.  Patient
   intubated and sedated.
   - Continue Vanc (day 1 [**7-25**]), empiric Caspofungin (day 1 [**7-24**])
   -disconintued Meropenem (day 1 [**7-25**]), Tobramycin (day 1 [**7-25**]) per ID
   and BMT
   - Daily RSBI and SBT
continue to wean from vent
   - obtain Vanc trough
   - pleural effusion largely reaccumulated 1 day after [**Female First Name (un) **].
   - Diurese 1L today
   - Atrovent nebs 3hrs (holding Albuterol for tachycardia
   .
   # Tachycardia: Baseline HR in 110s per primary team, rate in 130s when
   agitated.  Pt has been worked up for PE with negative CTA x 2 on [**7-16**] &
   [**7-17**]. Already anticoagulated. Overnight had episode in 200s, consistent
   with aflutter. Unclear of underlying cause. Most likely [**12-30**] to acute
   illness, fevers, and electrolyte changes.
   - CE enzymes negative
   -restart prior dose of Lopressor 12.5mg [**Hospital1 **]
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient somnolent at baseline, perhaps
   worsened by hypercarbia. CT head WNL, so less likely intracranial
   process despite pupil asymmetry.  Pupil asymmetry may also be due to
   nebs leaking over one side of face preferentially or to GVHD affecting
   vision. Difficult to assess neuro exam, but arousable this AM. Patient
   is sedated.
   -continue fentanyl and versed for patient comfort
   -daily wakeups
   - heme/onc defered any further imaging
   .
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u Tacro level yesterday AM (has been 6.9)
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - d/c ritalin
   .
   # FEN: continue slow titration of TFs. Continue to keep her net fluid
   even.
   - monitor lytes, replete prn
   .
   # Access: 2 lumen PICC -one lumen for blood or other continuous
   infusion, so limited access for emergent situation.  PIV very difficult
   to get in this patient.
   -IR for central line placement needed
not essential today, but will
   need to address this within the next few days.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL -discuss goals of care with family today, and clarify code
   status.  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **] longterm
   intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-30 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Was on PS from 11 am to 5 PM yesterday with sats >93 and Vt 500-600cc
   ABG  7.35/75/76/43
   Switched to AC at 5PM with VBG 7.33/92/36/51 and Sat 95%
   Attepmted RSBI early this AM but
no spontaneous effort
 per RT ->
   likely too sedated as patient was interactive yesterday
   -RSBI this AM while off sedation 122.  ABG on PS 15/5 was 7.36/81/75/48
   Vanc trough 7.3, changed to 1gm q8 this am per Pharm.
   1 lumen of PICC not flushing or Drawing, TPA for catheter flush
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2170-7-27**] 10:05 PM
   Caspofungin - [**2170-7-29**] 08:14 PM
   Vancomycin - [**2170-7-29**] 09:05 PM
   Acyclovir - [**2170-7-29**] 09:40 PM
   Meropenem - [**2170-7-30**] 01:08 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-30**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 109 (95 - 126) bpm
   BP: 101/62(71) {89/46(57) - 121/77(86)} mmHg
   RR: 14 (13 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,674 mL
                                                                    573 mL
   PO:
             TF:
                                                                    800 mL
                                                                    270 mL
   IVF:
                                                                  1,584 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    485 mL
   Urine:
                                                                  1,740 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    934 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 395 (355 - 395) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.35/75/76.[**Numeric Identifier 128**]/39/11
   Ve: 6.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen- intubated, opens eyes  to  verbal commands
   Pupils- PERRL
   CV- Tachy, reg rhythm, no m/r/g
   Pulm- CTA bilat. anteriorly
   Abd- Firm from fibrosis, BS +
   Extr- Skin fibrosed, DP pulses 2 + symmetric, no edema
   Labs / Radiology
   498 K/uL
   9.1 g/dL
   134 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.4 mEq/L
   11 mg/dL
   92 mEq/L
   139 mEq/L
   27.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2170-7-26**]  07:45 AM
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
                             [**2170-7-27**]  02:22 PM
                             [**2170-7-28**]  04:05 AM
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
   WBC
   9.0
   7.3
   7.3
   7.4
   Hct
   27.1
   23.1
   29.6
   28.6
   27.8
   Plt
   638
   633
   546
   498
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   TropT
   0.03
   0.03
   TCO2
   46
   45
   43
   Glucose
   90
   161
   116
   187
   139
   134
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  secondary to 1. restrictive lung disease [**12-30**]
   GVHD skin thickening  2. chronic LLL atelectasis   3.  Pleural
   effusions  4.  RLL aspiration pneumonia vs. pneumonitis.  Patient
   intubated and sedated.
   - Increase Vanc (day 1 [**7-25**]) based on trough
   - continue Caspofungin (day 1 [**7-24**])
   - Meropenem (day 1 [**7-25**]) continued per BMT attending given
   immunocompromised pt
   -disconintued Tobramycin (day 1 [**7-25**]) per ID and BMT
   - Daily RSBI and SBT - ABG this AM on PS 15/5 was 7.36/81/75/48
   - Will keep pt on AC overnight for rest and increase rate to achieve
   PCO2 in the 60-70 range
   -ABG at noon today
   - pleural effusion largely reaccumulated 1 day after [**Female First Name (un) **].
   - Diurese 500cc to 1L today
   - Atrovent nebs 3hrs (holding Albuterol for tachycardia)
   .
   # Tachycardia: Baseline HR in 110s per primary team, rate in 130s when
   agitated.  Pt has been worked up for PE with negative CTA x 2 on [**7-16**] &
   [**7-17**]. Already anticoagulated. Had episode of a-flutter in 200s on
   [**2170-7-28**]. Unclear of underlying cause. Most likely [**12-30**] to acute illness,
   fevers, and electrolyte changes.
   - CE enzymes negative
   - Consider titrating up Lopressor  today if BP tolerates
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient somnolent at baseline, perhaps
   worsened by hypercarbia. CT head WNL.  ? Pupil asymmetry -> resolved.
   Difficult to assess neuro exam, but arousable this AM. Patient is
   sedated.
   -continue fentanyl and versed for patient comfort
   -daily wakeups
   - heme/onc defered any further imaging
   .
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u Tacro level today (has been 6.9)
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - d/c ritalin
   .
   # FEN: continue slow titration of TFs.
   - monitor lytes, replete prn
   .
   # Access: 2 lumen PICC
 TPA for clogged lumen.  PIV very difficult to
   get in this patient.
   -IR for central line placement if needed.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL .  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   longterm intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2170-7-30**] 04:24 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-07-30 09:56:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34 yo male with large B cell lymphoma s/p allo BMT, GVHD
   ICU day 5 for hypercarbic failure in the setting of atelectasis,
   pleural effusion, asp PNA
   24 Hour Events:
   On PSV 15 for much of yesterday
   RSBI 122 today
   Some trouble with double lumen line flushing- got tPA
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2170-7-27**] 10:05 PM
   Caspofungin - [**2170-7-29**] 08:14 PM
   Acyclovir - [**2170-7-29**] 09:40 PM
   Meropenem - [**2170-7-30**] 08:30 AM
   Vancomycin - [**2170-7-30**] 09:11 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-29**] 08:00 PM
   Other medications:
   methylprednisolone, atovaquone, cellcept, lansoprazole, remeron,
   humalog, colace, alb MDI, atrov, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-30**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 116 (95 - 131) bpm
   BP: 100/55(65) {89/54(63) - 139/77(88)} mmHg
   RR: 18 (12 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,674 mL
                                                                  1,260 mL
   PO:
             TF:
                                                                    800 mL
                                                                    415 mL
   IVF:
                                                                  1,584 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    855 mL
   Urine:
                                                                  1,740 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    934 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 381 (247 - 395) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.36/81.[**Numeric Identifier 607**]/75/39/16
   Ve: 10.2 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Not assessed, firm texture c/w known GVHD
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   8.6 g/dL
   456 K/uL
   134 mg/dL
   0.3 mg/dL
   39 mEq/L
   3.4 mEq/L
   11 mg/dL
   92 mEq/L
   139 mEq/L
   28.3 %
   6.7 K/uL
        [image002.jpg]
                             [**2170-7-26**]  10:12 AM
                             [**2170-7-27**]  03:47 AM
                             [**2170-7-27**]  02:22 PM
                             [**2170-7-28**]  04:05 AM
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
   WBC
   9.0
   7.3
   7.3
   7.4
   6.7
   Hct
   23.1
   29.6
   28.6
   27.8
   28.3
   Plt
   638
   633
   546
   498
   456
   Cr
   0.3
   0.3
   0.3
   0.3
   0.4
   0.3
   TropT
   0.03
   0.03
   TCO2
   46
   45
   43
   48
   Glucose
   90
   161
   116
   187
   139
   134
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   34 year old male with large B cell lymphoma s/p allo BMT, GVHD with
   resp failure
   1. Resp failure on vent support
   On PSV, however CO2 rising (few ABG
s prior to this hospitalization,
   but suspect baseline pCO2
s 60
s-70
s) so will switch back to ACV
   [**Month (only) 60**] do better with short SBT's, with future vent weaning
   Continue vori, merepenem, vanco for asp PNA
   Attempt to make I/s
s negative today
   2. Hx aflutter: no further recurrence, on metoprolol
   3. GVHD: received IVIG 2 days ago
      regimen as per BMT team
   4. Depression: on Remeron
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2170-7-30**] 08:33 AM 49.[**Telephone/Fax (5) 4939**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2170-07-31 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Vent settings: changed to AC
   Extra diuretic dose to achieve target balance
   Meropenem stopped on day 6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-7-29**] 09:40 PM
   Caspofungin - [**2170-7-30**] 08:12 PM (Day 7)
   Vancomycin - [**2170-7-31**] 12:00 AM (Day 7)
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-31**] 02:02 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: None
   Flowsheet Data as of  [**2170-7-31**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.3
   HR: 99 (90 - 131) bpm
   BP: 85/52(60) {85/52(60) - 139/77(88)} mmHg
   RR: 28 (7 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,894 mL
                                                                    525 mL
   PO:
             TF:
                                                                  1,146 mL
   IVF:
                                                                  2,498 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  4,135 mL
                                                                  1,450 mL
   Urine:
                                                                  4,135 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -241 mL
                                                                   -925 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 358 (247 - 381) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 122
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.45/62/94.[**Numeric Identifier 128**]/39/15
   Ve: 6.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   GENERAL: Pt lying in bed, awake, following movement with eyes
   HEENT: PEERLA, normal eye movement, no jaundice, well hydrated
   Neck: supple, thyroid not palpable, no bruits, no lymph nodes
   Cardiac: Tachycardic in the 100-110 range; no m/r/g
   Lungs: CTAB; only checked with patient lying in back
   Abdomen: tense, non-tender, normal bowel sounds, no signs of peritoneal
   irritation
   Extremities: palpable pulses [**3-2**]; warm, good capillary refill, normal
   range of motion, increased in tone
   Neurologic: Responds to verbal commands opening eyes and with mild
   movement of extremities; patient is able to open eyes spontaneously,
   intubated. Increased tone in [**3-2**] extremities, normal ROT
s, cranial
   nerves 3, 4, 5, 6, 7 normal, remaining not assessed.
   Skin: indurated skin with erythematous and hypopigmented areas
   compatible with chronic GVHD in the entire body, but mostly neck,
   thorax and abdomen.
   Labs / Radiology
   474 K/uL
   8.9 g/dL
   97 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.6 mEq/L
   11 mg/dL
   90 mEq/L
   138 mEq/L
   28.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:05 AM
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
   WBC
   7.3
   7.4
   6.7
   6.0
   Hct
   28.6
   27.8
   28.3
   28.5
   Plt
   546
   498
   456
   474
   Cr
   0.3
   0.3
   0.4
   0.3
   0.4
   0.4
   TropT
   0.03
   0.03
   TCO2
   45
   43
   48
   44
   Glucose
   116
   187
   139
   134
   175
   97
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  Most likely multifactorial in the setting of
   resolving pneumonia, restrictive pneumopathy in the setting of
   restrictive lung disease (GVHD skin changes), pneumonities, BOOP in the
   setting of GVHD and sedation. Metabolic alkalosis and high SpO2 may be
   contributing to the respiratory distress. The most likely etiologies
   are prior pneumonia and over-sedation. The high dose of midazolam and
   fentanyl are certainly not helping to extubation.
   -          Continue Vancomycin (day 7)
   -          Continue Caspofungin (day 7)
   -          Check I/O, targer net balance -500cc
   -          Atrovent nebs PRN
   -          Check spontaneous breathing test today; may be able to
   extubate
   -          Replete K; target 4.5.
   -          Talk with psychiatry about re-starting Ritalin, which may
   help to awake him and stimulate breathing
   -          Change target SpO2 to 90-95% instead of the 98-100%
   -          Deacrease fentanyl and midazolan
   -          Start Oxycodone for pain control
   -          Change FiO2 to 35% today
   # Pneumonia: Patient  is afebrile and with lower FiO2 requirements.
   Physical exam improved compared to prior nots. Currently on day 7 of
   vancomycin. Meropenem was stopped yesterday.
   -          Continue Vancomycin for 2 more days (Day [**6-7**])
   -          Vancomycin level tonight
   -          F/u ID recs
   # Tachycardia: Patient anemic, with resolving pneumonia and electrolyte
   imbalance as possible etiologies of her tachycardia. Patient has been
   in the 90
s most of the time.
   - Consider titrating up Lopressor  today if BP tolerates
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient much more awake compare to prior
   notes, however still on fentanyl and midazolam.
   - Decrease fentanyl
   - Decrease midazolam
     Start oxycodone for pain control
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - Ask psychiatry if ok to restart ritalyn
   .
   # FEN: TF were stopped in the setting of anticipation of possible
   extubation today.
   -          Re-start tube feeds
   -          Replete lytes PRN
   .
   # Access: 2 lumen PICC
 TPA for clogged lumen.  PIV very difficult to
   get in this patient.
   -IR for central line placement if needed.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL .  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition: PEG
   Glycemic Control:  Adequate for now
   Lines:  PICC line, clotted yesterday, now working fine.
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT: on full-dose lovenox
   Stress ulcer: on PPI
   VAP:  Currently on Vanc
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Floor when extubated and stable.

2170-07-31 12:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34 year old male with Hodgkin lymphoma complicated by GVHD who has been
   in the hospital for about 2 months transferred to ICU most recently on
   hypercarbic respiratory failure approximately [**7-25**] and intubated
   approximately [**7-26**]. Diagnosed with pneumonia and being treated.
   Remains intubated.
   Over last 24 hours, remains on mechanical ventilation; given lasix
   24 Hour Events:
                   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-7-29**] 09:40 PM
   Meropenem - [**2170-7-30**] 07:32 PM
   Caspofungin - [**2170-7-30**] 08:12 PM
   Vancomycin - [**2170-7-31**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-7-31**] 02:02 AM
   Enoxaparin (Lovenox) - [**2170-7-31**] 08:00 AM
   Other medications:
   Med list reviewed - see [**Month (only) **] for full list
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-7-31**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 110 (90 - 129) bpm
   BP: 102/73(80) {85/52(60) - 129/73(83)} mmHg
   RR: 18 (7 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  3,894 mL
                                                                    985 mL
   PO:
             TF:
                                                                  1,146 mL
   IVF:
                                                                  2,498 mL
                                                                    985 mL
   Blood products:
   Total out:
                                                                  4,135 mL
                                                                  1,730 mL
   Urine:
                                                                  4,135 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -241 mL
                                                                   -745 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.45/62/94.[**Numeric Identifier 128**]/39/15
   Ve: 7.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   474 K/uL
   97 mg/dL
   0.4 mg/dL
   39 mEq/L
   3.6 mEq/L
   11 mg/dL
   90 mEq/L
   138 mEq/L
   28.5 %
   6.0 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:05 AM
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
   WBC
   7.3
   7.4
   6.7
   6.0
   Hct
   28.6
   27.8
   28.3
   28.5
   Plt
   546
   498
   456
   474
   Cr
   0.3
   0.3
   0.4
   0.3
   0.4
   0.4
   TropT
   0.03
   0.03
   TCO2
   45
   43
   48
   44
   Glucose
   116
   187
   139
   134
   175
   97
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   1) Acute Respiratory Failure likely secondary to combination of
   aspiration pneumonia and restrictive lung disease from severe
   progressive GVHD
        - Poor RSBI even with PS 10
        - Given progression of GVHD and progressive restrictive lung
   disease, will discuss with heme-onc whether or not trach might be more
   warrented
        - continue MV at current settings
        - complete 8 day course of Vancomycin for HAP
   2) Tachycardia - improved
   3)  Lymphoma: Check tacrolimus levels
   4)  GVHD:
   5) Depression: psych following.  Clarify psych meds and continue as
   needed.
   6) FEN: Restart tube feeds
   7) Access: PICC in place
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT: lovenox (full dose for upper extremity DVT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU care
   Total time spent: 35 (critical care)

2170-08-01 06:42:00 Physician Resident Progress Note
Chief Complaint: Worsening hypercarbic respiratory distress in the
   setting of pneumonia and restrictive lung disease
   24 Hour Events:
   Vancomycin trough level 19.9; patient redosed
   Pt vomiting after starting tube feeds; tube feeds stopped.
   Ongology: No change in tacrolimus dose
   ID recs: Change caspofungin to posaconasol
   Methadone restarted for pain control?
   Repeat K 5.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-7-29**] 09:40 PM
   Meropenem - [**2170-7-30**] 07:32 PM
   Caspofungin - [**2170-7-30**] 08:12 PM
   Vancomycin - [**2170-8-1**] 12:00 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-31**] 08:00 PM
   Midazolam (Versed) - [**2170-7-31**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-1**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.8
   HR: 108 (92 - 129) bpm
   BP: 105/55(66) {86/45(56) - 135/5,445(107)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,415 mL
                                                                    425 mL
   PO:
             TF:
                                                                    473 mL
   IVF:
                                                                  1,632 mL
                                                                    405 mL
   Blood products:
   Total out:
                                                                  2,533 mL
                                                                    370 mL
   Urine:
                                                                  2,483 mL
                                                                    370 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 131
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   504 K/uL
   8.5 g/dL
   86 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.7 mEq/L
   11 mg/dL
   96 mEq/L
   137 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
   WBC
   7.4
   6.7
   6.0
   7.3
   Hct
   27.8
   28.3
   28.5
   27.3
   Plt
   498
   456
   474
   504
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.03
   0.03
   TCO2
   45
   43
   48
   44
   Glucose
   187
   139
   134
   175
   97
   86
   Other labs: PT / PTT / INR:12.4/29.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   THIS IS A PRELIMINARY NOTE FOR ROUNDS USE ONLY
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Patient with stable O2 and pressure requirements, but patient still
   with very small tidal volumes. He is very awake and cooperating.
   Metabolic alkalosis improving.
   -Check I/O; target balance close to cero
   Most likely multifactorial in the setting of resolving pneumonia,
   restrictive pneumopathy in the setting of restrictive lung disease
   (GVHD skin changes), pneumonities, BOOP in the setting of GVHD and
   sedation. Metabolic alkalosis and high SpO2 may be contributing to the
   respiratory distress. The most likely etiologies are prior pneumonia
   and over-sedation. The high dose of midazolam and fentanyl are
   certainly not helping to extubation.
   -          Continue Vancomycin (day 7)
   -          Continue Caspofungin (day 7)
   -          Check I/O, targer net balance -500cc
   -          Atrovent nebs PRN
   -          Check spontaneous breathing test today; may be able to
   extubate
   -          Replete K; target 4.5.
   -          Talk with psychiatry about re-starting Ritalin, which may
   help to awake him and stimulate breathing
   -          Change target SpO2 to 90-95% instead of the 98-100%
   -          Deacrease fentanyl and midazolan
   -          Start Oxycodone for pain control
   -          Change FiO2 to 35% today
   # Pneumonia: Patient  is afebrile and with lower FiO2 requirements.
   Physical exam improved compared to prior nots. Currently on day 7 of
   vancomycin. Meropenem was stopped yesterday.
   -          Continue Vancomycin for 2 more days (Day [**6-7**])
   -          Vancomycin level tonight
   -          F/u ID recs
   # Tachycardia: Patient anemic, with resolving pneumonia and electrolyte
   imbalance as possible etiologies of her tachycardia. Patient has been
   in the 90
s most of the time.
   - Consider titrating up Lopressor  today if BP tolerates
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient much more awake compare to prior
   notes, however still on fentanyl and midazolam.
   - Decrease fentanyl
   - Decrease midazolam
     Start oxycodone for pain control
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - Ask psychiatry if ok to restart ritalyn
   .
   # FEN: TF were stopped in the setting of anticipation of possible
   extubation today.
   -          Re-start tube feeds
   -          Replete lytes PRN
   .
   # Access: 2 lumen PICC
 TPA for clogged lumen.  PIV very difficult to
   get in this patient.
   -IR for central line placement if needed.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL .  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-08-01 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   34 year old male with lymphoma s/p bone marrow transplant with GVHD
   with acute respiratory failure secondary to pneumonia and restrictive
   lung disease.
   High residuals from tube feeds overnight...
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-7-29**] 09:40 PM
   Meropenem - [**2170-7-30**] 07:32 PM
   Caspofungin - [**2170-7-30**] 08:12 PM
   Vancomycin - [**2170-8-1**] 08:00 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-7-31**] 08:00 PM
   Midazolam (Versed) - [**2170-7-31**] 10:05 PM
   Other medications:
   Med list review - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-1**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 95 (92 - 129) bpm
   BP: 112/60(71) {86/45(56) - 135/5,445(107)} mmHg
   RR: 26 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,415 mL
                                                                    934 mL
   PO:
             TF:
                                                                    473 mL
   IVF:
                                                                  1,632 mL
                                                                    784 mL
   Blood products:
   Total out:
                                                                  2,533 mL
                                                                    850 mL
   Urine:
                                                                  2,483 mL
                                                                    850 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -118 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 131
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   504 K/uL
   86 mg/dL
   0.4 mg/dL
   35 mEq/L
   4.7 mEq/L
   11 mg/dL
   96 mEq/L
   137 mEq/L
   27.3 %
   7.3 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:12 PM
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
   WBC
   7.4
   6.7
   6.0
   7.3
   Hct
   27.8
   28.3
   28.5
   27.3
   Plt
   498
   456
   474
   504
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.03
   0.03
   TCO2
   45
   43
   48
   44
   Glucose
   187
   139
   134
   175
   97
   86
   Other labs: PT / PTT / INR:13.0/34.0/1.1, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:2.7 g/dL, LDH:591 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure: Etiology likely combination of
   aspiration pneumonia in the background of restrictive lung disease from
   GVHD
   Plan: Complete course of vancomycin for HAP
             Wean off mechanical ventilation as tolerated.  At this point,
   limited significantly by restrictive physiology of the chest wall
   2)       Tachycardia: unclear etiology but improved slightly.  Already
   on lovenox full dose for DVT so no concern for PE.
   3)        GVHD: check tacro levels
   4)       Depression: Psych recs
   5)       FEN: re-start at low rate and titrate upwards
   6)       Full dose lovenox for upper extremity DVT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent: 35 minutes

2170-08-02 06:29:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic respiratory distress, with AMS and RLL
   infiltrate
   24 Hour Events:
   Monitoring EKG
   Methadone increased to 10mg TID for pain control
   Discussed with Onc attending who knows pt for long time possibility of
   tracheostomy and pt has always declined. Try to discuss with patiient
   yesterday, but he did not respond (despite being awake and respond
   other questions)
   Vancomycin dosing adjusted yesterday after discussion with ID. Day 1
   will be [**7-30**] since was the first day that pt was on therapeutic level.
   8 day course.
   Tacro level for today (pending)
   Tube feeds were re-started yesterday @ 30cc/hr, but patient got
   nauseous despite compazine. Tube feeds were stopped again.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2170-7-30**] 07:32 PM
   Caspofungin - [**2170-7-30**] 08:12 PM
   Vancomycin - [**2170-8-2**] 12:38 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-1**] 07:58 PM
   Enoxaparin (Lovenox) - [**2170-8-1**] 09:12 PM
   Fentanyl - [**2170-8-2**] 06:00 AM
   Midazolam (Versed) - [**2170-8-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-2**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 112 (89 - 115) bpm
   BP: 114/71(82) {95/54(65) - 127/74(86)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,708 mL
                                                                    363 mL
   PO:
             TF:
                                                                    122 mL
                                                                     73 mL
   IVF:
                                                                  1,116 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                    420 mL
   Urine:
                                                                  2,690 mL
                                                                    420 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,082 mL
                                                                    -57 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 98%
   ABG: ///33/
   Ve: 8.2 L/min
   Physical Examination
   GENERAL: NAD, lying in bed, responsive to verbal commands, with very
   mild pain.
   HEENT: PEERLA, no jaundice, well hydrated
   Neck: supple, no jvd visible, no bruits, thyroid normal size, no lymph
   nodes palpable
   Heart: RRR, no m/r/g
   Lungs: CTAB
   Abdomen: hard due to skin changes, non-tender, non-distended, normal
   bowel sounds
   Extremities: good pulses, good tone, warm.
   Skin: changes compatible with GVHD with severe disease; skin indurated.
   Neuro: Alert, responsive to verbal commands, CN 2-7, [**8-10**] intact;
   normal muscle tone, normal ROTs
   Labs / Radiology
   515 K/uL
   9.0 g/dL
   99 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   8 mg/dL
   94 mEq/L
   136 mEq/L
   28.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
   WBC
   7.4
   6.7
   6.0
   7.3
   7.5
   Hct
   27.8
   28.3
   28.5
   27.3
   28.8
   Plt
   498
   456
   474
   504
   515
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   0.5
   TropT
   0.03
   0.03
   TCO2
   43
   48
   44
   Glucose
   187
   139
   134
   175
   97
   86
   99
   Other labs: PT / PTT / INR:13.0/34.0/1.1, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:591 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   34 y/o M with PMHx of large B-cell lymphoma s/p allogenic stem cell
   transplant in 05 c/b severe GVHD who has been inpatient for last 2mths
   here with hypercarbic respiratory distress and ALS [**12-30**] aspiration PNA.
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Patient with stable O2 and pressure requirements, but patient still
   with very small tidal volumes. He is very awake and cooperating.
   Metabolic alkalosis improving.  We will need to re-assess for
   tracheostomy and long-term goals.
   -Check I/O; target balance close to cero
   -Atrovent nebs PRN
   -F/u bicarb
   # Pneumonia: Patient doing better from the respiratory point of view.
   CXR improved.
   -          Vancomycin (day 4); Day 1 is the firtst one with therapeutic
   level.
   # Pain control: Patient currently on Fentanyl, being wean out. Was
   started on morphine yesterday.
   -          Continue current doses; wean of fentanyl if possible.
   # Tachycardia: Patient anemic, with resolving pneumonia and electrolyte
   imbalance as possible etiologies of her tachycardia. Patient has been
   in the 90
s most of the time.
   - Consider titrating up Lopressor  today if BP tolerates
   - monitor on telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient much more awake compare to prior
   notes, however still on fentanyl and midazolam.
   - Decrease fentanyl
   - Decrease midazolam
   - Increase methadone for pain control
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - Tacrolimus traught was low, however re-checking tomorrow and will
   re-assess per pharmacy recs
   - continue atovaquone and acyclovir prophylaxis
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - Ask psychiatry if ok to restart ritalyn
   .
   # FEN: TF were stopped in the setting of anticipation of possible
   extubation today. Yesterday they were re-started after the failed
   attempt, but patient became nauseous.
   -          Re-start tube feeds slower than yesterday
   -          Replete lytes PRN
   .
   # Access: 2 lumen PICC
 TPA for clogged lumen.  PIV very difficult to
   get in this patient.
   -IR for central line placement if needed.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL .  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2170-8-1**] 02:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-08-02 12:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   overnight, decreased fentanyl, versed and titrated up methadone for
   pain control.
   Tube feeds
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2170-7-30**] 07:32 PM
   Caspofungin - [**2170-7-30**] 08:12 PM
   Vancomycin - [**2170-8-2**] 07:53 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-1**] 07:58 PM
   Enoxaparin (Lovenox) - [**2170-8-1**] 09:12 PM
   Midazolam (Versed) - [**2170-8-2**] 06:00 AM
   Fentanyl - [**2170-8-2**] 06:00 AM
   Other medications:
   Med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-2**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 92 (89 - 115) bpm
   BP: 99/55(66) {95/54(65) - 127/73(86)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,665 mL
                                                                  1,001 mL
   PO:
             TF:
                                                                    122 mL
                                                                     66 mL
   IVF:
                                                                  1,073 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                    760 mL
   Urine:
                                                                  2,690 mL
                                                                    760 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,125 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   PS : 22 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 23.7 cmH2O/mL
   SpO2: 99%
   ABG: ///33/
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: intubated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   515 K/uL
   99 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.9 mEq/L
   8 mg/dL
   94 mEq/L
   136 mEq/L
   28.8 %
   7.5 K/uL
        [image002.jpg]
                             [**2170-7-28**]  04:19 PM
                             [**2170-7-29**]  04:41 AM
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
   WBC
   7.4
   6.7
   6.0
   7.3
   7.5
   Hct
   27.8
   28.3
   28.5
   27.3
   28.8
   Plt
   498
   456
   474
   504
   515
   Cr
   0.3
   0.4
   0.3
   0.4
   0.4
   0.4
   0.5
   TropT
   0.03
   0.03
   TCO2
   43
   48
   44
   Glucose
   187
   139
   134
   175
   97
   86
   99
   Other labs: PT / PTT / INR:13.0/34.0/1.1, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/44, Alk Phos / T Bili:69/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:591 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure:
   -          currently on bipap ([**4-2**]) -> re-evaluate in 1 hour for
   possible extubation
   -
   2)       Pneumonia: complete 8 day course of vancomycin
   3)       Pain control: continue wean fentanyl and increase methadone
   4)       GVDH: tacrolimus levels low
   5)       FEN: reglan to help motility;
   6)       PICC
   7)       DVT: lovenox
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2170-08-03 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -family meeting: made DNR, considering trach
   -nausea
 zydis, not tolerating TF
   -KUB- no obstruction, some contrast from previous imaging still in
   bowels
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-2**] 10:04 PM
   Vancomycin - [**2170-8-3**] 12:18 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-8-2**] 08:06 PM
   Furosemide (Lasix) - [**2170-8-2**] 08:06 PM
   Lorazepam (Ativan) - [**2170-8-2**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-3**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 113 (89 - 124) bpm
   BP: 113/66(77) {99/55(66) - 140/81(94)} mmHg
   RR: 16 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,977 mL
                                                                    460 mL
   PO:
             TF:
                                                                     66 mL
   IVF:
                                                                  1,436 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    580 mL
   Urine:
                                                                  2,060 mL
                                                                    580 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -173 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 450) mL
   Vt (Spontaneous): 390 (390 - 390) mL
   PS : 10 cmH2O
   RR (Set): 13
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.30/73.[**Numeric Identifier 607**]/85.[**Numeric Identifier 128**]/36/6
   Ve: 5.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   HEENT: NCAT MMM
   CV: RRR S1S2
   PULM: clear b/l
   ABD: soft nontender, slightly less distended than yesterday
   EXT: WWP 2+dp pulses
   Labs / Radiology
   544 K/uL
   8.9 g/dL
   111 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   7 mg/dL
   93 mEq/L
   137 mEq/L
   28.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
   WBC
   6.7
   6.0
   7.3
   7.5
   7.3
   Hct
   28.3
   28.5
   27.3
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 5087**]15
   544
   Cr
   0.3
   0.4
   0.4
   0.4
   0.5
   0.6
   TCO2
   43
   48
   44
   37
   Glucose
   134
   175
   97
   86
   99
   111
   Other labs: PT / PTT / INR:13.0/34.0/1.1, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/45, Alk Phos / T Bili:83/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:591 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Metabolic alkalosis improving.  Yesterday discussed possibility of
   trach, however today he is doing much better on  minimal pressure
   support.
   -reassess RISBI, consider extubation today/tomorrow
   -Atrovent nebs PRN
   -F/u bicarb levels
   -? Trach in future for long term care goals
   # Pneumonia: Patient doing better from the respiratory point of view.
   CXR improved. Would consider d/c vancomycin
   -          Vancomycin (day 5); Day 1 is the firtst one with therapeutic
   level. [**8-6**] last day.
   -          f/u CXR
   # Pain control: Successfully weaned off fentanyl. continue morphine and
   methadone as written.
   -          Continue current regimen
   # Tachycardia: Patient anemic, with resolving pneumonia and electrolyte
   imbalance as possible etiologies of his tachycardia.
   - continue lopressor
   - telemetry
   - continue Lovenox 60mg sc BID
   # Mental Status changes: Patient much more awake compare to prior. Off
   sedation.
   - continue to monitor
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**].
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - Tacrolimus traught was low, however re-checking tomorrow and will
   re-assess per pharmacy recs
   - continue atovaquone and acyclovir prophylaxis
   - f/u BMT recs
   .
   #Major Depressive Disorder: Psychiatry is following.
   - holding long acting Benzos given intubation
   - Continue remeron per psych recs
   - Ask psychiatry if ok to restart ritalyn
   .
   # FEN: TF were stopped in the setting of anticipation of possible
   extubation today. Yesterday they were re-started after the failed
   attempt, but patient became nauseous.
   -          Re-start tube feeds slower than yesterday
   -          Replete lytes PRN
   .
   # Access: 2 lumen PICC
 TPA for clogged lumen.  PIV very difficult to
   get in this patient.
   -IR for central line placement if needed.
   .
   # PPx: PPI, Lovenox 60mg sc BID, restart bowel regimen
   .
   # Code: FULL .  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-08-03 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   Overnight, KUB showed no obstruction.  No other new problems.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-2**] 10:04 PM
   Vancomycin - [**2170-8-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-8-2**] 08:06 PM
   Furosemide (Lasix) - [**2170-8-2**] 08:06 PM
   Lorazepam (Ativan) - [**2170-8-2**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-3**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98.1
   HR: 110 (89 - 139) bpm
   BP: 121/77(86) {104/59(69) - 142/81(94)} mmHg
   RR: 31 (12 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,977 mL
                                                                    805 mL
   PO:
             TF:
                                                                     66 mL
   IVF:
                                                                  1,436 mL
                                                                    705 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    840 mL
   Urine:
                                                                  2,060 mL
                                                                    840 mL
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -173 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 350 (350 - 390) mL
   PS : 10 cmH2O
   RR (Set): 13
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 15 cmH2O
   SpO2: 99%
   ABG: 7.30/73.[**Numeric Identifier 607**]/85.[**Numeric Identifier 128**]/36/6
   Ve: 5.9 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   544 K/uL
   111 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.9 mEq/L
   7 mg/dL
   93 mEq/L
   137 mEq/L
   28.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2170-7-29**]  11:51 AM
                             [**2170-7-30**]  04:34 AM
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
   WBC
   6.7
   6.0
   7.3
   7.5
   7.3
   Hct
   28.3
   28.5
   27.3
   28.8
   28.7
   Plt
   [**Telephone/Fax (3) 5087**]15
   544
   Cr
   0.3
   0.4
   0.4
   0.4
   0.5
   0.6
   TCO2
   43
   48
   44
   37
   Glucose
   134
   175
   97
   86
   99
   111
   Other labs: PT / PTT / INR:13.0/34.0/1.1, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:40/45, Alk Phos / T Bili:83/0.2,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:591 IU/L, Ca++:9.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   1)       Acute Respiratory Failure:
   Plan: on [**4-2**] and will re-evaluate in hour to determine if able to
   extubate
   2)       Pneumonia: on vancomycin
 complete 8 day course
   3)       Pain control: increase methadone and minimize fentanyl drip
   4)       Depression: psych
   5)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 30

2170-08-04 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -vanco trough 30.8, held PM dose, rechecked level at 6:30pm and level
   was 23 dose held again.
   -unable to tolerate tube feeds (vomiting) and unable to tolerate
   gleevec. Order for PICC line placed to start TPN. Currently receiving
   IV maintenance therapy at 125cc/hr.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-2**] 10:04 PM
   Vancomycin - [**2170-8-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2170-8-3**] 10:51 PM
   Midazolam (Versed) - [**2170-8-4**] 01:16 AM
   Fentanyl - [**2170-8-4**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.9
   HR: 110 (102 - 139) bpm
   BP: 122/61(75) {105/54(67) - 142/83(96)} mmHg
   RR: 14 (13 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  1,898 mL
                                                                  1,064 mL
   PO:
             TF:
   IVF:
                                                                  1,478 mL
                                                                    964 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    450 mL
   Urine:
                                                                  2,110 mL
                                                                    450 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                   -422 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (310 - 430) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 15 cmH2O
   SpO2: 92%
   ABG: 7.34/76.[**Numeric Identifier 128**]/91.[**Numeric Identifier 96**]/38/10
   Ve: 8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   HEENT: NCAT MM dry anicteric
   CV: RRR S1S2 no m/r/g
   PULM: clear b/l scant crackles at bases
   ABD: tense but nontender +bs
   EXT: WWP 1+dp pulses
   NEURO: somewhat somnolent this morning but responsive
   Labs / Radiology
   539 K/uL
   8.7 g/dL
   92 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.5 mEq/L
   6 mg/dL
   93 mEq/L
   139 mEq/L
   28.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2170-7-30**]  09:24 AM
                             [**2170-7-30**]  12:28 PM
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
   WBC
   6.0
   7.3
   7.5
   7.3
   6.1
   Hct
   28.5
   27.3
   28.8
   28.7
   28.6
   Plt
   474
   504
   515
   544
   539
   Cr
   0.4
   0.4
   0.4
   0.5
   0.6
   0.5
   TCO2
   48
   44
   37
   43
   Glucose
   175
   97
   86
   99
   111
   92
   Other labs: PT / PTT / INR:13.5/32.9/1.2, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:50/49, Alk Phos / T Bili:102/0.3,
   Lactic Acid:1.6 mmol/L, Albumin:3.2 g/dL, LDH:678 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.4 mg/dL, PO4:2.9 mg/dL
   Blood cx: NGTD
   Sputum cx: [**9-22**] PMNs 3+ GPC S.aureus
   Assessment and Plan
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Metabolic alkalosis improving.  Would benefit from lasix diuresis,
   decrease in fluid therapy which will likely improve pulmonary function.
   Will need to discuss whether tracheostomy is an option for him at this
   point.
   -reassess RISBI, consider extubation today/tomorrow
   -Atrovent nebs PRN
   -F/u bicarb levels
   -readdress trach issue
   # Pneumonia: Vancomycin dosed this morning for level of 13. Continue
   per ID recs.
   -          Vancomycin (day 5); Day 1 is the firtst one with therapeutic
   level. [**8-6**] last day.
   -          f/u CXR
   # Pain control: Successfully weaned off fentanyl. continue morphine and
   methadone as written.
   -          Continue current regimen
   # Tachycardia: Patient with 20 beat VT run overnight. Could potentially
   be due to nebs, otherwise unclear etiology. Patient anemic, with
   resolving pneumonia and electrolyte imbalance as possible etiologies of
   his tachycardia.
   - continue lopressor
   - telemetry
   - continue Lovenox 60mg sc BID
   -consider decreasing neb frequency
   # Mental Status changes: Patient much more awake compare to prior. Off
   sedation.
   - continue to monitor
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**]. Last Tac dose
   of 5.2.
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - recheck tac level in [**12-31**] days
   .
   #Major Depressive Disorder: Psychiatry is following.
   - Continue remeron per psych recs
   - f/u any new psych recs
   .
   # FEN: Patient has had increased nausea with TF and PO medications
   despite multiple anti-nausea medications. Will consult nutrition for
   TPN. Patient with good bowel sounds but with no BM for 2 days.
   -          Change PO meds to IV if possible, otherwise attempt to space
   out PO meds to minimize nausea
   -          Replete lytes PRN
   -          f/u nutrition recs
   .
   # Access: 2 lumen PICC
   .
   # PPx: PPI, Lovenox 60mg sc BID, bowel regimen
   .
   # Code: DNR>  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2170-08-05 07:02:00 Physician Resident Progress Note
Chief Complaint: Resp distress and MS changes
   24 Hour Events:
   - vanco trough 13- dosed vanco
   - continues to be unable to tolerate TF, even PO meds are a problem.
   nutrition consult for TPN. should be able to use PICC since its double
   lumen, only 1 being used.
   -BMT ok with holding gleevec for a day, restarting at 200 and titrating
   up to 400 again.
   -continue to give tacrolimus at current dose, no need to increase,
   check the level again in a couple days (monday)
   -had couple episodes of apnea. ABG done (5:30pm) looked the same as
   before, FS was 140s, afebrile. Likely etiology is ativan .5 given
   earlier in the day may not be clearing as quickly. However, concern is
   for other causes of 'central' apnea such as chronic methadone
   treatment, fatigued respiratory muscles and chest wall. He will wake up
   when he is shaken and his name is called and can respond to questions
   so unlikely that this is seizure activity.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2170-8-2**] 10:04 PM
   Vancomycin - [**2170-8-4**] 08:08 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-8-4**] 08:07 PM
   Furosemide (Lasix) - [**2170-8-5**] 12:05 AM
   Fentanyl - [**2170-8-5**] 04:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 104 (100 - 126) bpm
   BP: 108/55(68) {96/54(65) - 126/77(88)} mmHg
   RR: 17 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,516 mL
                                                                    251 mL
   PO:
             TF:
   IVF:
                                                                  2,236 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    740 mL
   Urine:
                                                                  2,390 mL
                                                                    740 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                     76 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 340) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.39/71/95.[**Numeric Identifier 96**]/38/13
   Ve: 5.7 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   510 K/uL
   9.1 g/dL
   116 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.8 mEq/L
   12 mg/dL
   90 mEq/L
   135 mEq/L
   30.2 %
   5.6 K/uL
        [image002.jpg]
                             [**2170-7-30**]  04:58 PM
                             [**2170-7-31**]  04:14 AM
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
                             [**2170-8-4**]  05:47 PM
                             [**2170-8-5**]  03:57 AM
   WBC
   6.0
   7.3
   7.5
   7.3
   6.1
   5.6
   Hct
   28.5
   27.3
   28.8
   28.7
   28.6
   30.2
   Plt
   474
   504
   515
   544
   539
   510
   Cr
   0.4
   0.4
   0.4
   0.5
   0.6
   0.5
   0.6
   TCO2
   37
   43
   45
   Glucose
   175
   97
   86
   99
   111
   92
   116
   Other labs: PT / PTT / INR:14.4/32.9/1.3, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:54/51, Alk Phos / T Bili:108/0.3,
   Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:673 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Metabolic alkalosis improving.  Would benefit from lasix diuresis,
   decrease in fluid therapy which will likely improve pulmonary function.
   Will need to discuss whether tracheostomy is an option for him at this
   point.
   -reassess RISBI, consider extubation today/tomorrow
   -Atrovent nebs PRN
   -F/u bicarb levels
   -readdress trach issue
   # Pneumonia: Vancomycin dosed this morning for level of 13. Continue
   per ID recs.
   -          Vancomycin (day 5); Day 1 is the firtst one with therapeutic
   level. [**8-6**] last day.
   -          f/u CXR
   # Pain control: Successfully weaned off fentanyl. continue morphine and
   methadone as written.
   -          Continue current regimen
   # Tachycardia: Patient with 20 beat VT run overnight. Could potentially
   be due to nebs, otherwise unclear etiology. Patient anemic, with
   resolving pneumonia and electrolyte imbalance as possible etiologies of
   his tachycardia.
   - continue lopressor
   - telemetry
   - continue Lovenox 60mg sc BID
   -consider decreasing neb frequency
   # Mental Status changes: Patient much more awake compare to prior. Off
   sedation.
   - continue to monitor
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**]. Last Tac dose
   of 5.2.
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - recheck tac level in [**12-31**] days
   .
   #Major Depressive Disorder: Psychiatry is following.
   - Continue remeron per psych recs
   - f/u any new psych recs
   .
   # FEN: Patient has had increased nausea with TF and PO medications
   despite multiple anti-nausea medications. Will consult nutrition for
   TPN. Patient with good bowel sounds but with no BM for 2 days.
   -          Change PO meds to IV if possible, otherwise attempt to space
   out PO meds to minimize nausea
   -          Replete lytes PRN
   -          f/u nutrition recs
   .
   # Access: 2 lumen PICC
   .
   # PPx: PPI, Lovenox 60mg sc BID, bowel regimen
   .
   # Code: DNR>  Family okay with trial of intubation, but [**First Name11 (Name Pattern1) **]
[**Initial (NamePattern1) **] [**Last Name (NamePattern1) **]
   long-term intubation.
   .
   # Dispo: ICU until extubated
   .
   # Comm: with patient & family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-06 06:59:00 Physician Resident Progress Note
Chief Complaint: woresening hypercarbic respiratory distress, mental
   status change, new RLL infiltrate
   24 Hour Events:
   On Saturday night patient's ventilator onf [**9-2**], vent settings changed
   yesterday to [**4-2**] all during the day and patient tolerated well.
   Apparently overnight patient became apneic on these settings, switched
   back to AC. Discussion with BMT was had yesterday regarding patient's
   Gleevac has pt has been off yesterday secondary to nausea/vomiting.
   Today plan to re-start. Ordered by BMT for 200 mg today. This morning
   on T-tube only. Breathing comfortable. Patient stating that he does not
   want to be re-intubated if fails trail of extubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-6**] 05:21 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-8-5**] 08:05 PM
   Furosemide (Lasix) - [**2170-8-6**] 12:06 AM
   Midazolam (Versed) - [**2170-8-6**] 05:30 AM
   Fentanyl - [**2170-8-6**] 05:52 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2170-8-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 126 (87 - 132) bpm
   BP: 126/64(78) {102/57(67) - 153/79(90)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,295 mL
                                                                  1,023 mL
   PO:
             TF:
   IVF:
                                                                    630 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    860 mL
   Urine:
                                                                  2,430 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 318 (0 - 320) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: 7.33/77.[**Numeric Identifier 96**]/120/35/11
   Ve: 7.8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General
 awake, alert, following commands
   Pulm
 T tube in place, with intubation, no obvious wheezing
   Cards - + tachycardia, RRR, nl s1/s2
   Abdomen
 tense skin, hypoactive bowel sounds, soft, non-tender
   Extremities
 WWP, 2+ radial pulses
   Labs / Radiology
   530 K/uL
   9.4 g/dL
   122 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.3 mEq/L
   24 mg/dL
   94 mEq/L
   136 mEq/L
   31.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2170-8-1**]  04:18 AM
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
                             [**2170-8-4**]  05:47 PM
                             [**2170-8-5**]  03:57 AM
                             [**2170-8-5**]  08:35 PM
                             [**2170-8-6**]  03:54 AM
   WBC
   7.3
   7.5
   7.3
   6.1
   5.6
   6.5
   Hct
   27.3
   28.8
   28.7
   28.6
   30.2
   31.0
   Plt
   [**Telephone/Fax (3) 5207**]39
   510
   530
   Cr
   0.4
   0.5
   0.6
   0.5
   0.6
   0.6
   TCO2
   37
   43
   45
   43
   Glucose
   86
   99
   111
   92
   116
   122
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:54/51, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:76.0 %, Band:2.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:1.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:673 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Metabolic alkalosis improving.  Would benefit from lasix diuresis,
   decrease in fluid therapy which will likely improve pulmonary function.
   Will need to discuss whether tracheostomy is an option for him at this
   point.
   -initally did okay on [**4-2**] yesterday now on T-tube, will extubate this
   AM
   - check ABG after extubation
   - patient does not want to be reintubated
   -Atrovent nebs PRN
   -readdress trach issue
    # Pneumonia: Vancomycin dosed yesterday morning for level of 13.
   Continue per ID recs.
   -   [**8-6**] last day of treatment (today) so d/c vanc
   - will check ABG following extubation
   -    GRAM STAIN (Final [**2170-7-30**]):
         [**9-22**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Final [**2170-8-2**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
            OF TWO COLONIAL MORPHOLOGIES.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   PENICILLIN G---------- =>0.5 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
   - blood cultures no growth to date
   - pleural fluid with + polys but no microorganisms identified
   - bronchial washings GRAM STAIN (Final [**2170-7-27**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Final [**2170-7-29**]):
         OROPHARYNGEAL FLORA ABSENT.
         STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
            SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 5208**] ([**2170-7-25**]).
      LEGIONELLA CULTURE (Final [**2170-8-3**]):    NO LEGIONELLA ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2170-7-27**]):
         TEST CANCELLED, PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies.
         if pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 1475**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2170-7-27**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2170-7-31**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
         VIRUS.    RHINOVIRUS-LIKE CYTOPATHIC EFFECT.
   # Pain control: Successfully weaned off fentanyl. continue morphine and
   methadone as written.
   -          Continue current regimen
    # Tachycardia: Patient with 20 beat VT run Saturday night which was
   asymptomatic. Could potentially be due to nebs, anemia, or electrolyte
   abnormalities.
   - continue lopressor, with continued tachycardia will titrate up
   b-blocker dose to 25 mg PO BID with holding parameters for HR < 60, BP
   < 100
   - cont telemetry
   - continue Lovenox 60mg sc BID for history of upper extremity DVT
   - will check TSH
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**]. Last Tac dose
   of 5.2.
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - recheck tac level in [**12-31**] days
   .
   #Major Depressive Disorder: Psychiatry following.
   - Continue remeron
   - f/u any new psych recs
   .
   # FEN: Patient has had increased nausea with TF and PO medications
   despite multiple anti-nausea medications. Consulted nutrition for TPN.
   -  Change PO meds to IV if possible, otherwise attempt to space out PO
   meds to minimize nausea
   -  Replete lytes PRN
   - TPN as per nutrition
   # Access: 2 lumen PICC, peripheral IV
   .# PPx: PPI, Lovenox 60mg sc BID, bowel regimen
   # Code: DNR, now as per patient also DNI..
   .# Dispo: consider transfer to the floor now that extubated
   .# Comm: with patient & family
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-8-5**] 06:06 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   18 Gauge - [**2170-8-5**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-06 11:03:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   over the weekend, unable to extubate but no other new events or
   problems.
   This morning, on T-piece and doing well.  no new complaints. Unable to
   get full history as patient is intubated.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-6**] 05:21 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-6**] 12:06 AM
   Midazolam (Versed) - [**2170-8-6**] 05:30 AM
   Fentanyl - [**2170-8-6**] 05:52 AM
   Enoxaparin (Lovenox) - [**2170-8-6**] 08:00 AM
   Other medications:
   Med List Reviewed - See [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Flowsheet Data as of  [**2170-8-6**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 108 (87 - 138) bpm
   BP: 127/81(91) {102/59(67) - 153/81(91)} mmHg
   RR: 20 (12 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  2,295 mL
                                                                  1,446 mL
   PO:
             TF:
   IVF:
                                                                    630 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                  1,080 mL
   Urine:
                                                                  2,430 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -135 mL
                                                                    366 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 318 (0 - 320) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.34/75/69/35/10
   Ve: 7.8 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   530 K/uL
   122 mg/dL
   0.6 mg/dL
   35 mEq/L
   4.3 mEq/L
   24 mg/dL
   94 mEq/L
   136 mEq/L
   31.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2170-8-2**]  03:54 AM
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
                             [**2170-8-4**]  05:47 PM
                             [**2170-8-5**]  03:57 AM
                             [**2170-8-5**]  08:35 PM
                             [**2170-8-6**]  03:54 AM
                             [**2170-8-6**]  10:37 AM
   WBC
   7.5
   7.3
   6.1
   5.6
   6.5
   Hct
   28.8
   28.7
   28.6
   30.2
   31.0
   Plt
   [**Telephone/Fax (3) 5216**]10
   530
   Cr
   0.5
   0.6
   0.5
   0.6
   0.6
   TCO2
   37
   43
   45
   43
   42
   Glucose
   99
   111
   92
   116
   122
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:54/51, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:76.0 %, Band:2.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:1.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:673 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   1) Respiratory Failure: Likely secondary to pneumonia on top of
   restrictive physiology
   Plan: Will extubate now.
   2) Tachycardia: Had run of VT
   - check
   -
   3) DVT: continue lovenox
   4) GVHD: on Glevac but holding because
   5) FEN: TPN as not tolerating tube feeding
   ICU Care
   Nutrition:
   TPN without Lipids - [**2170-8-5**] 06:06 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   18 Gauge - [**2170-8-5**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent: 30 minutes

2170-08-07 07:52:00 Physician Resident Progress Note
Chief Complaint: SOB; anxiety
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2170-8-6**] 11:10 AM
   Patient did ok on [**4-2**] yesterday so he was switched to T-tube. He was
   extubated yesterday. Now on shevel mask 15 L
   Patient c/o pain in his chest. Does not seem cardiac pain. It may be a
   mix of anxiety and GVHD and restrictive component in his chest. Pt was
   given IV morphine and IV fentanyl. Was started on standing tylenol and
   oxycodone PRN. Methadone was stopped.
   Anxiety: patient gets very anxious about his disease and terminal
   illness. Followed by psychiatry in the floors. Now getting 0.5 of
   ativan IV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-6**] 05:21 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2170-8-6**] 08:00 PM
   Furosemide (Lasix) - [**2170-8-7**] 12:12 AM
   Fentanyl - [**2170-8-7**] 04:00 AM
   Morphine Sulfate - [**2170-8-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2170-8-7**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.3
   HR: 111 (94 - 138) bpm
   BP: 116/68(79) {110/62(73) - 142/92(100)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,030 mL
                                                                  1,068 mL
   PO:
             TF:
   IVF:
                                                                    730 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  1,445 mL
   Urine:
                                                                  3,145 mL
                                                                  1,445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP
   RR (Spontaneous): 25
   FiO2: 50%
   SpO2: 99%
   ABG: 7.34/75/69/38/10
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Stiff, due to GVHD
   skin changes
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, GVHD changes
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   544 K/uL
   9.5 g/dL
   193 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.6 mEq/L
   24 mg/dL
   96 mEq/L
   140 mEq/L
   32.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
                             [**2170-8-4**]  05:47 PM
                             [**2170-8-5**]  03:57 AM
                             [**2170-8-5**]  08:35 PM
                             [**2170-8-6**]  03:54 AM
                             [**2170-8-6**]  10:37 AM
                             [**2170-8-7**]  03:25 AM
   WBC
   7.3
   6.1
   5.6
   6.5
   8.1
   Hct
   28.7
   28.6
   30.2
   31.0
   32.0
   Plt
   544
   539
   510
   530
   544
   Cr
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   37
   43
   45
   43
   42
   Glucose
   111
   92
   116
   122
   193
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:54/51, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:76.0 %, Band:2.0 %, Lymph:8.0 %, Mono:12.0 %,
   Eos:1.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:673 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   # Respiratory Distress:  Most likely multifactorial in the setting of
   pneumonia with a restrictive pneumomathy due to tight skin (GVHD).
   Metabolic alkalosis improving.  Would benefit from lasix diuresis,
   decrease in fluid therapy which will likely improve pulmonary function.
   Will need to discuss whether tracheostomy is an option for him at this
   point.
   -initally did okay on [**4-2**] yesterday now on T-tube, will extubate this
   AM
   - check ABG after extubation
   - patient does not want to be reintubated
   -Atrovent nebs PRN
   -readdress trach issue
    # Pneumonia: Vancomycin dosed yesterday morning for level of 13.
   Continue per ID recs.
   -   [**8-6**] last day of treatment (today) so d/c vanc
   - will check ABG following extubation
   -    GRAM STAIN (Final [**2170-7-30**]):
         [**9-22**] PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Final [**2170-8-2**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
         STAPH AUREUS COAG +.    MODERATE GROWTH.
            OF TWO COLONIAL MORPHOLOGIES.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STAPH AUREUS COAG +
                                |
   ERYTHROMYCIN----------   =>8 R
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------   =>8 R
   OXACILLIN-------------   =>4 R
   PENICILLIN G---------- =>0.5 R
   RIFAMPIN-------------- <=0.5 S
   TETRACYCLINE----------   <=1 S
   TRIMETHOPRIM/SULFA---- <=0.5 S
   VANCOMYCIN------------   <=1 S
   - blood cultures no growth to date
   - pleural fluid with + polys but no microorganisms identified
   - bronchial washings GRAM STAIN (Final [**2170-7-27**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Final [**2170-7-29**]):
         OROPHARYNGEAL FLORA ABSENT.
         STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
            SENSITIVITIES PERFORMED ON CULTURE # [**Numeric Identifier 5208**] ([**2170-7-25**]).
      LEGIONELLA CULTURE (Final [**2170-8-3**]):    NO LEGIONELLA ISOLATED.
      POTASSIUM HYDROXIDE PREPARATION (Final [**2170-7-27**]):
         TEST CANCELLED, PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies.
         if pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 1475**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2170-7-27**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2170-7-31**]):
         NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VIRAL CULTURE (Preliminary):
         VIRUS.    RHINOVIRUS-LIKE CYTOPATHIC EFFECT.
   # Pain control: Successfully weaned off fentanyl. continue morphine and
   methadone as written.
   -          Continue current regimen
    # Tachycardia: Patient with 20 beat VT run Saturday night which was
   asymptomatic. Could potentially be due to nebs, anemia, or electrolyte
   abnormalities.
   - continue lopressor, with continued tachycardia will titrate up
   b-blocker dose to 25 mg PO BID with holding parameters for HR < 60, BP
   < 100
   - cont telemetry
   - continue Lovenox 60mg sc BID for history of upper extremity DVT
   - will check TSH
   #. GVHD: Continue regimen per BMT. Last IVIG on [**2170-7-27**]. Last Tac dose
   of 5.2.
   - continue Gleevec, Tacrolimus, cellcept and IV methlprednisolone
   - continue atovaquone and acyclovir prophylaxis
   - recheck tac level in [**12-31**] days
   .
   #Major Depressive Disorder: Psychiatry following.
   - Continue remeron
   - f/u any new psych recs
   .
   # FEN: Patient has had increased nausea with TF and PO medications
   despite multiple anti-nausea medications. Consulted nutrition for TPN.
   -  Change PO meds to IV if possible, otherwise attempt to space out PO
   meds to minimize nausea
   -  Replete lytes PRN
   - TPN as per nutrition
   # Access: 2 lumen PICC, peripheral IV
   .# PPx: PPI, Lovenox 60mg sc BID, bowel regimen
   # Code: DNR, now as per patient also DNI..
   .# Dispo: consider transfer to the floor now that extubated
   .# Comm: with patient & family
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-8-6**] 06:04 PM 104 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   18 Gauge - [**2170-8-5**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2170-08-07 12:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   This morning having some increased problems breathing.  [**Name2 (NI) 1204**] a dose of
   ativan early in the morning for anxiety.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2170-8-6**] 11:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2170-8-6**] 05:21 AM
   Acyclovir - [**2170-8-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2170-8-7**] 12:12 AM
   Fentanyl - [**2170-8-7**] 04:00 AM
   Morphine Sulfate - [**2170-8-7**] 06:00 AM
   Lorazepam (Ativan) - [**2170-8-7**] 07:25 AM
   Enoxaparin (Lovenox) - [**2170-8-7**] 08:00 AM
   Other medications:
   Med list reviewed - see [**Month (only) **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:Unable
   Flowsheet Data as of  [**2170-8-7**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 124 (94 - 124) bpm
   BP: 124/65(79) {112/62(73) - 138/88(100)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                  3,030 mL
                                                                  1,568 mL
   PO:
             TF:
   IVF:
                                                                    730 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  3,145 mL
                                                                  1,735 mL
   Urine:
                                                                  3,145 mL
                                                                  1,735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -115 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///38/
   Physical Examination
   Gen: decreased LOC, tachyapneic
   HEENT: NC, AT
   Chest: CTA bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Neurologic: Poorly responsive
   Labs / Radiology
   9.5 g/dL
   544 K/uL
   193 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.6 mEq/L
   24 mg/dL
   96 mEq/L
   140 mEq/L
   32.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2170-8-2**]  02:45 PM
                             [**2170-8-3**]  04:07 AM
                             [**2170-8-3**]  03:08 PM
                             [**2170-8-4**]  03:53 AM
                             [**2170-8-4**]  05:47 PM
                             [**2170-8-5**]  03:57 AM
                             [**2170-8-5**]  08:35 PM
                             [**2170-8-6**]  03:54 AM
                             [**2170-8-6**]  10:37 AM
                             [**2170-8-7**]  03:25 AM
   WBC
   7.3
   6.1
   5.6
   6.5
   8.1
   Hct
   28.7
   28.6
   30.2
   31.0
   32.0
   Plt
   544
   539
   510
   530
   544
   Cr
   0.6
   0.5
   0.6
   0.6
   0.5
   TCO2
   37
   43
   45
   43
   42
   Glucose
   111
   92
   116
   122
   193
   Other labs: PT / PTT / INR:12.2/22.8/1.0, CK / CKMB /
   Troponin-T:184/3/0.03, ALT / AST:54/51, Alk Phos / T Bili:108/0.3,
   Differential-Neuts:83.0 %, Band:1.0 %, Lymph:1.0 %, Mono:11.0 %,
   Eos:4.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.4 g/dL, LDH:673 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   1) Respiratory Distress:
   - patient appears in severe respiratory distress at this time.  Per
   wishes, he does not want to be re-intubated and this was stated in the
   presence of wife and family and is reasonable choice given the advanced
   progression of his disease.
   Plan:
   - will check ABG
   - will attempt bipap
   2) Pneumonia
   3) GVHD
   Addendum: Patient had severe hypercarbia pCO2 = 200 and pH 6.9.  He
   failed to respond to bipap and this is apparently irreversible given
   that patient wishes were not to be re-intubated.  His wife was
   [**Name (NI) 420**] and was at bedside.  Patient died.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2170-8-6**] 06:04 PM 104 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2170-7-25**] 02:25 PM
   18 Gauge - [**2170-8-5**] 09:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 35 (patient was critically ill)